US08278442B2
6-{1-[(trans-4-Isopropylcyclohexylamino)methyl]isoquinolin-4-yloxy}nicotinamide
To a suspension of 6-(1-formylisoquinolin-4-yloxy)nicotinamide (Preparation 20) (150 mg, 0.51 mmol) and trans-4-isopropylcyclohexylamine hydrochloride (Preparation 9) (273 mg, 1.53 mmol) in 1,2-dichloroethane (10 mL) under argon was added acetic acid (30 μL, 0.51 mmol) followed by NaBH(OAc)3 (325 mg, 1.53 mmol). The mixture was stirred at rt for 16 h then the reaction solvent was removed in vacuo. The residue was partitioned between EtOAc (50 mL) and NaHCO3 (30 mL), and the organic phase washed with NaHCO3 (30 mL), brine (30 mL) and dried (MgSO4). Solvent was removed in vacuo and the residue purified by column chromatography (SiO2, NH4OH:MeOH:DCM 0.5:5:95) to give the title compound: RT=2.85 min; m/z (ES+)=419.3 [M+H]+.

reactant | 6-(1-formylisoquinolin-4-yloxy)nicotinamide | 0.51 mmol, 150 mg | C(=O)C1=NC=C(C2=CC=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C16H11N3O3
reactant | trans-4-isopropylcyclohexylamine hydrochloride | 1.53 mmol, 273 mg | Cl.C(C)(C)[C@@H]1CC[C@H](CC1)N
reactant | acetic acid | 0.51 mmol, 30 μL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 1.53 mmol, 325 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 6-{1-[(trans-4-Isopropylcyclohexylamino)methyl]isoquinolin-4-yloxy}nicotinamide | C(C)(C)[C@@H]1CC[C@H](CC1)NCC1=NC=C(C2=CC=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C25H30N4O2
